US07449483B2
To a suspension of 0.74 g (16.9 mmol) NaH (55% in mineral oil) in 40 ml THF was added a solution of 4 g (13.1 mmol) 3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-ol in 20 ml THF at RT. The solution was stirred at RT for 1 h, 2.1 ml (14.3 mmol) t-butyl bromoacetate was added. The solution was stirred at RT over night, 1M KHSO4 was added carefully and the layers separated. The inorganic one was extracted with EtOAc, the combined organic phases were washed with water and brine and dried over Na2SO4. Column chromatography on silica gel with EtOAc:hexane 1:4 yielded 4.95 g (90%) [3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-acetic acid tert-butyl ester as colorless oil, MS: 420 (MH+, 1Br).

reactant | NaH | 16.9 mmol, 0.74 g | [H-].[Na+]
reactant | 3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-ol | 13.1 mmol, 4 g | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)O | C13H8BrNOS
reactant | t-butyl bromoacetate | 14.3 mmol, 2.1 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | [3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-acetic acid tert-butyl ester | 4.95 g, 90% | C(C)(C)(C)OC(COC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1)=O | C19H18BrNO3S
